Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
dysarthria x 2 days and possible R-hand and face weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo RHF with no significant PMHx who yesterday morning 
developed dysarthria as well as feeling tired and slow in all 
her daily activities. She also noted she couldn't read the 
newspaper but was able to see all the letters normally. She 
could write but mentioned that it wasn't her usual neatness and 
had to redo an envelope three times. She also noted some 
incoordination of her
R hand though did not try to do same activities with L hand. She 
couldn't remember exactly where things went when she was drying 
off the dishes. At 3 am, she awoke and went to play solitaire on 
the computer when she noted she was unsteady and had to hold on 
to things when ambulating, as well she was unable to properly 
control the cursor with her R hand. This am she was unable to 
get out of the bathtub as both her legs felt weak. She also 
noted difficulty finding her mouth when trying to eat and that 
her coffee would spill out of the right side of her mouth. No 
trouble swallowing. The dysarthria is worse today and she called 
her daughter who brought her to the hospital. At OSH she was 
thought to have a R facial droop which is not appreciated at 
this time. No headache. She was given ASA.  Over the past ___ yrs 
her memory has been worsening. One year ago she had an episode 
where she was under a lot of stress and hadn't slept well, was 
standing up, felt lightheadedness and had syncope. She was seen 
at OSH where a "cardiac work-up " was negative. No other such 
episodes.

 
Past Medical History:
-osteoporosis  
-Rheumatoid arthritis  
-s/p colectomy secondary to diverticulitis  
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSCIAL EXAMINATION
T 96.3 HR 80 nsr BP 166-173/64 RR 18 sO2 100%RA  
GEN: NAD
HEENT: mmm  
NECK: no LAD; no carotid bruits; full range neck movements  
LUNGS: Clear to auscultation bilaterally  
HEART: Regular rate and rhythm, normal S1 and S2, no murmurs
ABDOMEN: normal bowel sounds, soft, nontender, nondistended  
EXTREMITIES: no clubbing, cyanosis, ecchymosis, or edema,
stigmata of RA

MENTAL STATUS:  
Awake and alert, cooperative with exam, normal affect.  
Oriented to place, month, day, and date, person.  
Attention: MOYbw.  
Memory: Registration: ___ items; Recall ___ at 5 min with
prompting  
Language: fluent; repetition: intact; Naming intact;
Comprehension intact; mild dysarthria, no paraphasic errors.
Reading: intact; Prosody: normal. No Apraxia. No Neglect.  
She was able to name 18 animals in 1 min and 6 words starting
with letter "B" in 1 min

CRANIAL NERVES:  
II: Visual acuity intact. Visual fields are full to
confrontation, pupils equally round and reactive to light both
directly and consensually, 3-->2 mm bilaterally. Disc margins
sharp, no papilledema. 
III, IV, VI: Extraocular movements intact without nystagmus. No
ptosis.
V: Facial sensation intact to light touch and pinprick.  
VII: Facial movement symmetrical; no facial droop.  
VIII: Hearing intact to finger rub bilaterally.  
IX: Palate elevates in midline.  
XII: Tongue protrudes in midline, no fasciculations.  
XI: Sternocleidomastoid and trapezius normal bilaterally.  
 
MOTOR SYSTEM: Normal bulk and tone bilaterally. No adventitious
movements, no tremor, no asterixis.  
D T B WF WE FiF ___ IP Gl Q H AF AE TF TE  
Right ___  
Left ___  
No pronator drift. No rebound.  

REFLEXES:  
      B T Br Pa Pl  
Right ___  2 0 
Left  ___  2 0
Plantar response upgoing bilat.  
 
SENSORY SYSTEM: Sensation intact to light touch, pin prick,
temperature (cold), vibration, and proprioception in all
extremities.
Difficulty touching her nose with either hand with her eyes
closed due to past-pointing. Romberg negative.
 
COORDINATION: Normal FNF, RAM, HTS. No dysmetria or 
pastpointing.
  
GAIT: narrow based, normal arm swing, normal initiation.  

 
Pertinent Results:
___ MRA of the neck was normal

___ MRA OF THE HEAD: 
The head MRA demonstrates irregularity of the flow signal within 
the right 
middle cerebral artery in M2 segment and in the proximal M3 
segment. There is irregularity of the flow signal seen with 
diminished flow within the left posterior cerebral artery in the 
P2 and P3 segments. There findings are indicative of intrinsic 
atherosclerotic disease. Minimal irregularity of the M1 segment 
of the left middle cerebral artery is also seen. No occlusion is 
identified. 
  
IMPRESSION: Flow signal irregularities indicative of intrinsic 
atherosclerotic disease involving both middle cerebral arteries, 
right greater than left side and left posterior cerebral artery 
as described above. No occlusion seen. 

 
Brief Hospital Course:
Her weakness and arm c ordination improved during her stay. She 
underwent physical therapy. Brain MRI showed a small acute, left 
subcortical infarct presumed to be on account of small vessel 
disease. She also had several episodes of emotional outbursts, 
where she began shaking her left leg, and an EEG was done during 
one of these episodes which was normal. She has very slight 
residual dysarthria, and slight clumsiness of her right hand and 
leg at discharge.
 
Medications on Admission:
-Fosamax  
-Detrol 
 
Discharge Medications:
1. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Tolterodine 1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Stroke (Right small posterior lenticulostriate territory)

 
Discharge Condition:
Slight residual dysarthria, clumsiness of the right hand and 
right leg

 
Discharge Instructions:
You have had a stroke, if you have worsening of your symptoms, 
or you experience sudden onset weakness in your arms or legs, 
please go to your nearest ED. 
 
Followup Instructions:
___